US08039460B2
Step A: Ethyl 5-cyano-5-(2,3-difluorophenyl)pentanoate
Sodium hydride (60% dispersion in mineral oil; 2.9 g, 71.8 mmol) was slowly added to a solution of (2,3-difluorophenyl)acetonitrile (10.0 g, 65.3 mmol) and ethyl 4-bromobutanoate (12.7 g, 65.3 mmol) in N,N-dimethylformamide (100 mL) at 0° C. After 30 min, the reaction mixture was warmed to ambient temperature. After 3 h, water was added and the mixture was extracted with ethyl acetate (2×). The organic extracts were washed with saturated aqueous ammonium chloride, saturated brine, dried over magnesium sulfate, filtered and concentrated to give the title compound. MS 267.1 (M+1).

reactant | Sodium hydride | 71.8 mmol, 2.9 g | [H-].[Na+]
reactant | (2,3-difluorophenyl)acetonitrile | 65.3 mmol, 10.0 g | FC1=C(C=CC=C1F)CC#N | C8H5F2N
reactant | ethyl 4-bromobutanoate | 65.3 mmol, 12.7 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | Ethyl 5-cyano-5-(2,3-difluorophenyl)pentanoate | C(#N)C(CCCC(=O)OCC)C1=C(C(=CC=C1)F)F | C14H15F2NO2
